** sch_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hm_pg_hv.sch
.subckt hm_pg_hv_17x200 GPWR VAPWR VDPWR ctrl VGND
*.PININFO ctrl:I VAPWR:B VGND:B GPWR:B VDPWR:B
x2 VAPWR VDPWR ctrl H_crtl_p H_crtl_n VGND lv2hv
MM4 ctrl_n H_crtl_p VGND VGND sg13_hv_nmos w=2.6u l=0.45u ng=1
MM5 ctrl_n H_crtl_p VAPWR VAPWR sg13_hv_pmos w=4.44u l=0.45u ng=1
MM1 GPWR ctrl_n VAPWR VAPWR sg13_hv_pmos w=1445.4u l=0.45u ng=219 m=2 mm_ok=1
x3 VGND GPWR ctrl_n hv_dischg
.ends

* expanding   symbol:  /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/lv2hv.sym # of pins=6
** sym_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/lv2hv.sym
** sch_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/lv2hv.sch
.subckt lv2hv VAPWR VDPWR in out_p out_n VGND
*.PININFO VAPWR:B VGND:B in:I VDPWR:B out_p:O out_n:O
MM1 in_n in VGND VGND sg13_lv_nmos w=1u l=0.13u ng=1
MM2 in_n in VDPWR VDPWR sg13_lv_pmos w=2u l=0.13u ng=1
MM3 in_p in_n VGND VGND sg13_lv_nmos w=1u l=0.13u ng=1
MM4 in_p in_n VDPWR VDPWR sg13_lv_pmos w=2u l=0.13u ng=1
MM5 out_p net1 VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1
MM6 net1 in_p VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1
MM7 out_p net1 VAPWR VAPWR sg13_hv_pmos w=2u l=0.45u ng=1
MM8 net1 net2 VAPWR VAPWR sg13_hv_pmos w=1u l=0.45u ng=1
MM9 net2 net1 VAPWR VAPWR sg13_hv_pmos w=1u l=0.45u ng=1
MM10 net2 in_n VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1
MM11 out_n net2 VGND VGND sg13_hv_nmos w=1u l=0.45u ng=1
MM12 out_n net2 VAPWR VAPWR sg13_hv_pmos w=2u l=0.45u ng=1
.ends


* expanding   symbol:  /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hv_dischg.sym # of pins=3
** sym_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hv_dischg.sym
** sch_path: /foss/designs/hm-openpdk-library/ihp-sg13cmos5l/libs.tech/xschem/hm_analog/hv_dischg.sch
.subckt hv_dischg VGND GPWR gate
*.PININFO GPWR:B VGND:B gate:I
MM6 GPWR gate net6 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM7 net6 gate net5 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM8 net5 gate net4 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM9 net4 gate VGND VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM1 GPWR gate net1 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM2 net1 gate net2 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM3 net2 gate net3 VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
MM4 net3 gate VGND VGND sg13_hv_nmos w=0.5u l=0.65u ng=1
.ends

